US06537994B2
N-[2-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-pyridin-3-yl]-benzamide
N-{2-[4-(2-Aminoethyl)anilino]-3-pyridinyl}benzamide (0.1 g, 0.30 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.107 g, 0.265 mmol) according to Procedure G (eluant: 20:1 going to 10:1 chloroform-methanol) to give the title compound (0.064 g, 0.087 mmol).

reactant | N-{2-[4-(2-Aminoethyl)anilino]-3-pyridinyl}benzamide | 0.30 mmol, 0.1 g | NCCC1=CC=C(NC2=NC=CC=C2NC(C2=CC=CC=C2)=O)C=C1 | C20H20N4O
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.265 mmol, 0.107 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | N-[2-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-pyridin-3-yl]-benzamide | 0.087 mmol, 0.064 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1=NC=CC=C1NC(C1=CC=CC=C1)=O)COC1=CC=C(C=C1)O | C29H30N4O4
